US08134001B2
In a manner similar to the method described in example 1d, 4-(4-bromo-2-formyl-phenoxy)-3-chloro-benzoic acid methyl ester (3.7 g, 10 mmol) was reacted with 1,1,1, 3,3,3-hexamethyldisilazane (1.6 g, 10 mmol), n-butyllithium (2.5 M, 4 mL, 10 mmol), trimethylsilyl chloride (1.1 g, 10 mmol), triethylamine (1.36 g, 13.6 mmol) and acetyl chloride (1.0 g, 13.6 mmol) to give crude 1-[5-bromo-2-(2-chloro-4-methoxycarbonyl-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 4-(4-bromo-2-formyl-phenoxy)-3-chloro-benzoic acid methyl ester | 10 mmol, 3.7 g | COC(C1=CC(=C(C=C1)OC1=C(C=C(C=C1)Br)C=O)Cl)=O | C15H10BrClO4
reactant | 1,1,1, 3,3,3-hexamethyldisilazane | 10 mmol, 1.6 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 10 mmol, 2.5 M, 4 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 10 mmol, 1.1 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 13.6 mmol, 1.36 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 13.6 mmol, 1.0 g | C(C)(=O)Cl | C2H3ClO
product | 1-[5-bromo-2-(2-chloro-4-methoxycarbonyl-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1=C(C=C(C=C1)C(=O)OC)Cl | C20H21BrClNO4Si
